US05140011
1.1 g (2.67 mmol) of t-butyl 4-(cyclohexylmethyl)-5-(4-hydroxy-2-isopropylbutyl)-2,2-dimethyl-3-oxazolidinecarboxylate are dissolved in 1.85N hydrochloric acid in dioxan and stirred at room temperature for 2 hours. Thereafter, the reaction mixture is poured into 2N potassium bicarbonate solution and extracted with ethyl acetate. The crude product obtained after drying and evaporating the organic extracts is chromatographed on silica gel with a 4:1 mixture of methylene chloride and methanol as the eluting agent, whereby there are obtained 268 mg (37%) of (3S,5S,6S)-6-amino-7-cyclohexyl-5-hydroxy-3-isopropyl-1-heptanol as a resin, MS: 272 (M+H)+.

reactant | t-butyl 4-(cyclohexylmethyl)-5-(4-hydroxy-2-isopropylbutyl)-2,2-dimethyl-3-oxazolidinecarboxylate | 2.67 mmol, 1.1 g | C1(CCCCC1)CC1N(C(OC1CC(CCO)C(C)C)(C)C)C(=O)OC(C)(C)C | C24H45NO4
reactant | potassium bicarbonate | 2N | C([O-])(O)=O.[K+]
solvent | hydrochloric acid | 1.85N | Cl | ClH
solvent | dioxan | O1CCOCC1 | C4H8O2
product | (3S,5S,6S)-6-amino-7-cyclohexyl-5-hydroxy-3-isopropyl-1-heptanol | 268 mg, 37% | N[C@H]([C@H](C[C@H](CCO)C(C)C)O)CC1CCCCC1 | C16H33NO2
